US09119868B2
Step 2: 6-(N-(4-Amino-3-chlorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
A solution of 6-(N-(3-chloro-4-nitrophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (11.0 g, 19.7 mmol) in 1:1 THF/MeOH (75 mL) was subjected to hydrogenation at 40 psi in the presence of 5% sulfided platinum on carbon (0.560 g). After 4 hours an additional portion of catalyst was added (0.250 g). After another 16 hours the reaction vessel was purged with nitrogen, catalyst removed by filtration through celite, and the filtrate concentrated to dryness at reduced pressure. The residue was recrystallized from hexane/EtOAc to afford the title compound (10.3 g, 99%) as a white solid. LCMS (m/z, ES+)=528 (M+H+).

reactant | 6-(N-(3-chloro-4-nitrophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 19.7 mmol, 11.0 g | ClC=1C=C(C=CC1[N+](=O)[O-])N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C26H21ClFN3O6S
catalyst | sulfided platinum on carbon | 0.560 g | [Pt] | Pt
solvent | THF MeOH | 75 mL | C1CCOC1.CO
product | 6-(N-(4-Amino-3-chlorophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 10.3 g, 99% | NC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)Cl | C26H23ClFN3O4S
